US04271163
7.0 g (26.3 millimoles) of cis-2-(p-biphenylcarbonyl)-cyclopropanecarboxylic acid, 1.45 g (29.0 millimoles) of hydrazine and 100 ml of ethanol are refluxed for 8 hours. After filtering off the product at 0° C. and drying it under reduced pressure at 50° C., 6.6 g (96% of theory) of 2-(p-biphenylyl)-3,4-diazabicyclo[4.1.0]hept-2-en-5-one are obtained as colorless crystals, of melting point 220°-221° C. after recrystallization from ethanol.

reactant | cis-2-(p-biphenylcarbonyl)-cyclopropanecarboxylic acid | 26.3 millimoles, 7.0 g | C=1(C(=CC=CC1)C(=O)[C@@H]1[C@@H](C1)C(=O)O)C1=CC=CC=C1 | C17H14O3
reactant | hydrazine | 29.0 millimoles, 1.45 g | NN | H4N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(p-biphenylyl)-3,4-diazabicyclo[4.1.0]hept-2-en-5-one | 6.6 g, 96% | C1(=C(C=CC=C1)C=1C2CC2C(NN1)=O)C1=CC=CC=C1 | C17H14N2O
